US07763657B2
Step 4: (4-amino-3-vinylbenzyl)carbamic acid t-butyl ester
A 50 ml two-neck round bottom flask was filled with argon gas and the solution of tetrakis(triphenyl phosphine)palladium(0) (123.7 mg, 0.107 mmol, 0.06 eq.) and lithium chloride (211.9 mg, 4.998 mmol, 2.8 eq.) in DMF was put into the flask. To the solution was added (4-amino-3-iodobenzyl) carbamic acid t-butyl ester (621.4 mg, 1.875 mmol, 1 eq.) and tributylvinyltin (782.5 mg, 2.678 mmol, 1.5 eq.). The mixture solution was heated to 90° C. to reflux for one night. After confirming the completion of the reaction with TLC, the reaction solution was extracted with methylenechloride, washed with water and brine, dried over Na2SO4, filtered and evaporated. The obtained liquid was column-chromatographed (n-hexane/ethyl acetate=3/1) to yield brown liquid.

reactant | lithium chloride | 4.998 mmol, 211.9 mg, 2.8 eq. | [Cl-].[Li+]
reactant | (4-amino-3-iodobenzyl) carbamic acid t-butyl ester | 1.875 mmol, 621.4 mg, 1 eq. | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)N)I)=O | C12H17IN2O2
reactant | tributylvinyltin | 2.678 mmol, 782.5 mg, 1.5 eq. | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-amino-3-vinylbenzyl)carbamic acid t-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)N)C=C)=O | C14H20N2O2
